US05574178
5-Benzyloxy-4-tert-butyl-2-formylbenzofuran (5.0 g, 16 mmol) was dissolved in a 25:1 mixed solution (260 ml) of ethyl acetate and acetic acid. After adding 10% Pd on carbon (5.0 g), the solution was stirred under a hydrogen atmosphere for 48 h. After filtering off the Pd on carbon, the filtrate was washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated. The concentrate was subjected to silica gel chromatography and eluted with a solvent system consisting of a 4:1 mixture of hexane and ethyl acetate to afford 4-tert-butyl-5-hydroxy-2-hydroxymethyl-2,3-dihydrobenzofuran [3.1 g (yield, 87%)] as a colorless oil. Mass 222(M+), 207, 57

reactant | 5-Benzyloxy-4-tert-butyl-2-formylbenzofuran | 16 mmol, 5.0 g | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)C=O)C1C(C)(C)C | C20H20O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Pd on carbon | 5.0 g | [Pd] | Pd
product | 4-tert-butyl-5-hydroxy-2-hydroxymethyl-2,3-dihydrobenzofuran | 3.1 g, 87% | C(C)(C)(C)C1=C(C=CC2=C1CC(O2)CO)O | C13H18O3
